US05847166
An oven dried Schlenk tube equipped with a teflon coated stir bar was charged with NaH (60% dispersion in mineral oil, 60 mg, 1.50 mmol), placed under vacuum and back-filled with argon. To this was added toluene (2 mL) and cyclopentanol (109 μL, 0.90 mmol). The mixture was heated at 70° C. for 15 min at which time 9-bromoanthracene (193 μL, 0.75 mmol), Pd2 (dba)3 (10.3 mg, 0.0113 mmol), (R)-(+)-2,2'-bis(di-p-tolylphosphino)-1,1'-binaphthyl (Tol-BINAP) (18.3 mg, 0.027 mmol), and 2 mL of toluene were added. The mixture was heated at 100° C. under an atmosphere of argon. After 20 hours diethyl ether (30 mL) and brine (30 mL) were added. The organic layer was separated and dried over anhydrous MgSO4. The drying agent was removed by filtration and the mother liquor concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (99:1 hexanes:ethyl acetate) to afford 9-anthryl cyclopentyl ether (135 mg, 68% yield) as a yellow solid.

reactant | NaH | 1.50 mmol, 60 mg | [H-].[Na+]
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | cyclopentanol | 0.90 mmol, 109 μL | C1(CCCC1)O | C5H10O
reactant | 9-bromoanthracene | 0.75 mmol, 193 μL | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 30 mL | [Cl-].[Na+].O
catalyst | Pd2 (dba)3 | 0.0113 mmol, 10.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (R)-(+)-2,2'-bis(di-p-tolylphosphino)-1,1'-binaphthyl | 0.027 mmol, 18.3 mg | CC1=CC=C(C=C1)P(C2=CC=C(C=C2)C)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=C(C=C7)C)C8=CC=C(C=C8)C | C48H40P2
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 9-anthryl cyclopentyl ether | 135 mg, 68% yield | C1(CCCC1)OC=1C2=CC=CC=C2C=C2C=CC=CC12 | C19H18O
